US04448964
To a solution of 10.0 g of 1-benzyl-4-hydroxypiperidine and a catalytic amount of triethylamine in 10 ml of THF was added dropwise 4.62 g of diketene over 15 minutes. After the addition, the reaction was effected at room temperature for 1.5 hours and then at 50°-60° C. for 4.5 hours. The reaction mixture was concentrated, and then distilled under reduced pressure to obtain 7.20 g of acetoacetic acid-N-benzyl-4-piperidinyl ester (yield: 50.0%), b.p. 146° C./0.13 mmHg.

reactant | 1-benzyl-4-hydroxypiperidine | 10.0 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | diketene | 4.62 g | C=C1CC(=O)O1 | C4H4O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | acetoacetic acid-N-benzyl-4-piperidinyl ester | 7.20 g, yield: 50.0% | C(C1=CC=CC=C1)N1CCC(CC1)OC(CC(=O)C)=O | C16H21NO3
